US05733922
1-N-methyl-4-(2-dimethylaminobenzylthio)-5,5-dimethyl-3-imidazolin-2-one
Initially, 0.5 g of 4-(2-dimethylaminobenzylthio)-5,5-dimethyl-3-imidazolin-2-one was reacted with 1 mL of methyl iodide following the procedure used in Example 35. The desired compound was obtained in the form of a syrup. The yield of this compound was 0.43 g with a yield ratio of 81.9%. A result of a 1 H-NMR analysis of the compound is as follows:

reactant | 4-(2-dimethylaminobenzylthio)-5,5-dimethyl-3-imidazolin-2-one | 0.5 g | CN(C1=C(CSC2=NC(NC2(C)C)=O)C=CC=C1)C | C14H19N3OS
reactant | methyl iodide | 1 mL | CI | CH3I
product | 1-N-methyl-4-(2-dimethylaminobenzylthio)-5,5-dimethyl-3-imidazolin-2-one | CN1C(N=C(C1(C)C)SCC1=C(C=CC=C1)N(C)C)=O | C15H21N3OS
